US06967196B1
4-chloro-N-[2,5-dichlorophenyl]-N-[4-[(2-methylpropyl amino)sulfonyl]-1(R)-methylbutyl]benzenesulfonamide was prepared analogous to 4-chloro-N-[2,5-dichlorophenyl]-N-[4 [(methylamino)sulfonyl]-1(R)-methylbutyl]benzenesulfonamide by reacting (4R)-4-[2,5-dichlorophenyl][4-chlorophenyl)sulfonyl]-amino]pentylsulfonyl chloride with iso-butylamine. Yield=66%; MS (ESI+), 541 (M+H)+.

reactant | 4-chloro-N-[2,5-dichlorophenyl]-N-[4 [(methylamino)sulfonyl]-1(R)-methylbutyl]benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H](CCCS(=O)(=O)NC)C)C1=C(C=CC(=C1)Cl)Cl | C18H21Cl3N2O4S2
reactant | pentylsulfonyl chloride | C(CCCC)S(=O)(=O)Cl | C5H11ClO2S
reactant | iso-butylamine | C(C(C)C)N | C4H11N
product | 4-chloro-N-[2,5-dichlorophenyl]-N-[4-[(2-methylpropyl amino)sulfonyl]-1(R)-methylbutyl]benzenesulfonamide | Yield=66% | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H](CCCS(=O)(=O)NCC(C)C)C)C1=C(C=CC(=C1)Cl)Cl | C21H27Cl3N2O4S2
